US08048902B2
Synthesis of [5-(4′-Cyanomethyl-biphenyl-4-yl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester (Compound 62)
Prepared as described in Example 36, Step 6 using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester and 4-cyanomethylphenylboronic acid.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester | FC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrFN2O3
reactant | 4-cyanomethylphenylboronic acid | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
product | [5-(4′-Cyanomethyl-biphenyl-4-yl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester | FC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC#N)C)=O | C27H22FN3O3
